US06200976B1
a. 2-amino-N-(4-cyano-benzyl)-4-nitro-benzamide
31.7 g (0.17 mol) of 4-nitro-anthranilic acid are dissolved in 350 ml dimethylformamide and after the addition of 45.4 g (0.28 mol) of N,N′-carbonyldiimidazole stirred for 30 minutes at 50° C. Then a solution of 23 g (0.17 mol) of 4-aminomethyl-benzonitrile in 100 ml dimethylformamide is added dropwise and stirred for 2 hours at 50° C. The solution is evaporated down, dissolved in ethyl acetate and extracted with sodium hydrogen carbonate solution. The combined organic extracts are dried and evaporated down. The residue is chromatographed on silica gel and eluted with methylene chloride/ethanol (97:3).

reactant | 4-nitro-anthranilic acid | 0.17 mol, 31.7 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)N | C7H6N2O4
reactant | 4-aminomethyl-benzonitrile | 0.17 mol, 23 g | NCC1=CC=C(C#N)C=C1 | C8H8N2
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-amino-N-(4-cyano-benzyl)-4-nitro-benzamide | NC1=C(C(=O)NCC2=CC=C(C=C2)C#N)C=CC(=C1)[N+](=O)[O-] | C15H12N4O3
